US06114361
A solution of (5R)-5-(tert-butyl-dimethylsilanyloxymethyl)-3-(4-methoxyphenyl)-2-oxo-2,5-dihydropyrrole-1-carboxylic acid tert-butyl ester (1.7 grams, 3.9 mmol) in ethanol (100 mL) was treated with palladium black (300 mg) and hydrogenated in a Parr™ shaker at 3 atmospheres pressure overnight. The catalyst was removed by filtration and the solvent was evaporated to provide crude (3S, 5R)-5-(tert-butyl-dimethylsilanyloxymethyl)-3-(4-methoxyphenyl)-2-oxopyrrolidine-1-carboxylic acid tert-butyl ester as an oil. This was dissolved in tetrahydrofuran (40 mL) and treated with aqueous 0.5M hydrochloric acid solution (7.2 mL). The resulting mixture was stirred at room temperature overnight, quenched with saturated sodium carbonate solution and extracted twice with methylene chloride. The combined organic extracts were dried over magnesium sulfate and concentrated to an oil. The title compound (551 mg, 48%) was isolated by flash chromatography on silica gel eluting with 20% hexane in ethyl acetate.

reactant | (5R)-5-(tert-butyl-dimethylsilanyloxymethyl)-3-(4-methoxyphenyl)-2-oxo-2,5-dihydropyrrole-1-carboxylic acid tert-butyl ester | 3.9 mmol, 1.7 grams | C(C)(C)(C)OC(=O)N1C(C(=C[C@@H]1CO[Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)OC)=O | C23H35NO5Si
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium black | 300 mg | [Pd] | Pd
product | (3S, 5R)-5-(tert-butyl-dimethylsilanyloxymethyl)-3-(4-methoxyphenyl)-2-oxopyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C([C@@H](C[C@@H]1CO[Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)OC)=O | C23H37NO5Si
